US05705527
(a) (2R)-N-(2-Nitrooxyethyl)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropanamide
The procedures of Example 1 were analogously repeated using 1.07 g of (2S)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropionic acid and 0.94 g of 2-nitrooxyethylamine nitrate to give 0.44 g of the title compound as pale yellow crystals.

reactant | (2S)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropionic acid | 1.07 g | C(C)(=O)N[C@H](C(=O)O)COC1OCCCC1 | C10H17NO5
reactant | 2-nitrooxyethylamine nitrate | 0.94 g | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
product | (2R)-N-(2-Nitrooxyethyl)-2-acetylamino-3-(tetrahydropyran-2-yl)oxypropanamide | 0.44 g | [N+](=O)([O-])OCCNC([C@@H](COC1OCCCC1)NC(C)=O)=O | C12H21N3O7
